US04133809
1-Methyl-8-acetamido-6-phenyl-4-H-s-triazolo[4,3-a][1,5]-benzodiazepin-5-on
3.47 g of 1-methyl-8-amino-6-phenyl-4-H-s-triazolo-[4,3-a][1,5]benzodiazepin-5-one and 1.02 g of acetic anhydride in 50 ml pyridine is stirred for 12 hours then refluxed for 30 minutes. The reaction is evaporated; the residue is taken up in chloroform, washed with dilute aqueous sodium bicarbonate, with water and dried. The solvent is evaporated to give the title compound.

reactant | 1-methyl-8-amino-6-phenyl-4-H-s-triazolo-[4,3-a][1,5]benzodiazepin-5-one | 3.47 g | CC1=NN=C2N1C1=C(N(C(C2)=O)C2=CC=CC=C2)C=C(C=C1)N | C17H15N5O
reactant | acetic anhydride | 1.02 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 1-Methyl-8-acetamido-6-phenyl-4-H-s-triazolo[4,3-a][1,5]-benzodiazepin-5-on | CC1=NN=C2N1C1=C(N(C(C2)=O)C2=CC=CC=C2)C=C(C=C1)NC(C)=O | C19H17N5O2
